US06605747B2
In a 1-L three-neck flask equipped with a stirrer, a thermometer and a dropping funnel, a THF solution (300 ml) of 23.2 g (100 mmol) of 3,5-difluoro-4′-propylbiphenyl was cooled down to −70° C. under nitrogen atmosphere, and 69 ml (110 mmol) of n-butyllithium (1.6M hexane solution) was added dropwise thereto. The solution was stirred at 70° C. for one hour, and then a THF solution (10 ml) of 9.3 ml (120 mmol) of DMF was added dropwise and further stirred for one hour. The reaction mixture was poured into 200 ml of 1N hydrochloric acid and extracted with 200 ml of heptane. The heptane layer was washed in turn with 200 ml of water, 200 ml of a saturated aqueous sodium hydrogencarbonate solution and 200 ml of water, and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and then the concentrated residue was purified by means of a silica gel column chromatography (developing solvent: heptane/toluene={fraction (4/6)}) to obtain 26.0 g (100 mmol, yield: 100%) of 3,5-difluoro-4-formyl-4′-propylbiphenyl as colorless oily substance.

reactant | 3,5-difluoro-4′-propylbiphenyl | 100 mmol, 23.2 g | FC=1C=C(C=C(C1)F)C1=CC=C(C=C1)CCC | C15H14F2
reactant | n-butyllithium | 110 mmol, 1.6M, 69 ml | C(CCC)[Li]
reactant | DMF | 120 mmol, 9.3 ml | CN(C)C=O | C3H7NO
reactant | hydrochloric acid | 1N, 200 ml | Cl | ClH
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | 3,5-difluoro-4-formyl-4′-propylbiphenyl | 100 mmol, 26.0 g, yield: 100% | FC=1C=C(C=C(C1C=O)F)C1=CC=C(C=C1)CCC | C16H14F2O
